US07176224B2
3-(4-Benzyloxyphenyl)-3-hydroxy-2-(3,4-dimethylphenoxy)-2-methylpropionic acid ethyl ester (9.5 mmol) in anhydrous CH2Cl2 (30 mL) and pyridine (9.5 mmol) was cooled to 0° C. and treated with trifluoroacetic anhydride (19 mmol). The mixture was stirred for 2 h and gradually warmed to ambient temperature. An aqueous solution of 1N HCl (25 mL) was added and the mixture was stirred vigorously. The solution was partitioned and the organic layer was washed twice with water and brine, dried over Na2SO4, and concentrated in vacuo to produce 3-(4-benzyloxyphenyl)-2-(3,4-dimethylphenoxy)-2-methyl-3-(2,2,2-trifluoroacetoxy)propionic acid ethyl ester as an oil.

reactant | 3-(4-Benzyloxyphenyl)-3-hydroxy-2-(3,4-dimethylphenoxy)-2-methylpropionic acid ethyl ester | 9.5 mmol | C(C)OC(C(C(O)C1=CC=C(C=C1)OCC1=CC=CC=C1)(C)OC1=CC(=C(C=C1)C)C)=O | C27H30O5
reactant | pyridine | 9.5 mmol | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 19 mmol | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | HCl | 1N, 25 mL | Cl | ClH
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 3-(4-benzyloxyphenyl)-2-(3,4-dimethylphenoxy)-2-methyl-3-(2,2,2-trifluoroacetoxy)propionic acid ethyl ester | C(C)OC(C(C(OC(C(F)(F)F)=O)C1=CC=C(C=C1)OCC1=CC=CC=C1)(C)OC1=CC(=C(C=C1)C)C)=O | C29H29F3O6
